US07273877B2
2-(Aminooxy)ethanol, 4-(2-fluoro-4-methylanilino)-1-methyl-6-oxo-1,6-dihydro-3-pyridinecarboxylic acid and DMT-MM were reacted in MeOH as outlined in example 33, step D. Further purification by flash chromatography on silica gel (EtOAc followed by 10% MeOH/CH2Cl2) gave 4-(2-fluoro-4-methylanilino)-N-(2-hydroxyethoxy)-1-methyl-6-oxo-1,6-dihydro-3-pyridinecarboxamide (61%) as a cream solid; m.p. (EtOAc/Hexane) 110-115° C. 1H NMR [400 MHz, (CD3)2SO] δ 11.62 (br s, 1H), 9.21 (br s, 1H), 8.11 (s, 1H), 7.31 (t, J=8.3 Hz, 1H), 7.17 (d, J=11.8 Hz, 1H), 7.06 (d, J=8.3 Hz, 1H), 5.38 (s, 1H), 4.75 (t, J=5.3 Hz, 1H), 3.91 (t, J=4.9 Hz, 2H), 3.62 (q, J=4.9 Hz, 2H), 3.35 (s, 3 H, obscured), 2.32 (s, 3H). LCMS (ACPI−) 334 (50%). Anal. Calcd for C16H18FN3O4.0.25 H2O: C, 56.6; H, 5.5; N, 12.4. Found C, 56.5; H, 5.5; N, 12.1.

reactant | 2-(Aminooxy)ethanol | NOCCO | C2H7NO2
reactant | 4-(2-fluoro-4-methylanilino)-1-methyl-6-oxo-1,6-dihydro-3-pyridinecarboxylic acid | FC1=C(NC=2C(=CN(C(C2)=O)C)C(=O)O)C=CC(=C1)C | C14H13FN2O3
reactant | DMT-MM | C[N+]1(CCOCC1)C2=NC(=NC(=N2)OC)OC.[Cl-]
solvent | MeOH | CO | CH4O
product | 4-(2-fluoro-4-methylanilino)-N-(2-hydroxyethoxy)-1-methyl-6-oxo-1,6-dihydro-3-pyridinecarboxamide | 61% | FC1=C(NC=2C(=CN(C(C2)=O)C)C(=O)NOCCO)C=CC(=C1)C | C16H18FN3O4
